US08048902B2
2′-Chloroacetophenone and (R)-(+)-2-methyl-CBS-oxazaborolidine were reacted as described in Example 35, Step 1 to provide (S)-1-phenyl-ethanol.

reactant | 2′-Chloroacetophenone | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | (R)-(+)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
product | (S)-1-phenyl-ethanol | C1(=CC=CC=C1)[C@H](C)O | C8H10O
